US08486950B2
To a solution of N-(2-azidopyridin-4-yl)-2,4,6-trichlorobenzamide (90 mg, 0.26 mmol) in ethanol (5 mL) was added SnCl2.2H2O (300 mg, 1.31 mmol). The mixture was heated at reflux for 1 hour and then cooled to room temperature. The reaction was concentrated under reduced pressure and the residue was diluted with water (10 mL). The mixture was extracted with ethyl acetate (3×5 mL). The combined organic extracts were dried over MgSO4 and concentrated under reduced pressure to give N-(2-aminopyridin-4-yl)-2,4,6-trichlorobenzamide (82 mg, yield: 100%). LCMS (ESI) m/z: 316.0 [M+H+].

reactant | N-(2-azidopyridin-4-yl)-2,4,6-trichlorobenzamide | 0.26 mmol, 90 mg | N(=[N+]=[N-])C1=NC=CC(=C1)NC(C1=C(C=C(C=C1Cl)Cl)Cl)=O | C12H6Cl3N5O
reactant | SnCl2.2H2O | 1.31 mmol, 300 mg | O.O.Cl[Sn]Cl
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | N-(2-aminopyridin-4-yl)-2,4,6-trichlorobenzamide | 82 mg, yield: 100% | NC1=NC=CC(=C1)NC(C1=C(C=C(C=C1Cl)Cl)Cl)=O | C12H8Cl3N3O
